US06514992B1
2b) (S)-(+)-N-Boc-2-Phenoxymethylpyrrolidine
To a solution of phenol (0.40 g, 4.23 mmol) in 10 mL of THF at 0° C. was added sodium hydride (0.226 g, 5.65 mmol), and the mixture was warmed to room temperature. The mixture was stirred 10 minutes (until evolution of hydrogen gas ceased) and cooled to 0° C. A solution of (S)-(+)-N-Boc-2-(4-toluenesulfonyloxymethyl)pyrrolidine (1.0 g, 2.8 mmol) in 2 mL of THF was added dropwise and the resulting mixture was refluxed overnight. To the mixture was added 5 mL of DMF and the mixture was heated at 100° C. overnight. To the mixture was added EtOAc and the organic layer was washed thrice with water, thrice with 1N NaOH, and twice with water. The organic layer was then dried over MgSO4, filtered and concentrated under reduced pressure to give an oil. The oil was purified by silica gel chromatography with 7% EtOAc/Hexanes to give the title compound as a colorless oil (0.55 g, 71%). ES (+) MS m/e=278 (M+H).

reactant | phenol | 4.23 mmol, 0.40 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 5.65 mmol, 0.226 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | (S)-(+)-N-Boc-2-(4-toluenesulfonyloxymethyl)pyrrolidine | 2.8 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-(+)-N-Boc-2-Phenoxymethylpyrrolidine | 0.55 g, 71% | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC1=CC=CC=C1 | C16H23NO3
